US05142095
4-Hydroxy-3-methoxybenzaldehyde (2.1 g, 13.8 mMol) and 3-phenoxypropane-2-one triphenylphosphorane (2.8 g, 6.9 mMol) (prepared as described by LeCorre: C. R. Acad. Sci. Paris 273 81 (1971)) are dissolved in 100 ml of toluene and warmed to reflux. After three hours, the solvent is evaporated and the residue is taken up in tHF. Sodium bisulfite (10.0 g) is dissolved in 100 ml of water and stirred with the solution for one hour. The THF is evaporated and the water is extracted with chloroform. Drying over magnesium sulfate and evaporation of the chloroform gives a yellow oil. Flash chromatography in ethyl acetate on silica gel gives 1.5 g (65%) of 1-(4'-hydroxy,3'-methoxyphenyl)-4-phenyl-1-butene-3-one; mp=85°-87° C. C, H analysis: Calcd for C17H16O4 (71.81, 5.68); Found (71.85, 5.50).

reactant | 4-Hydroxy-3-methoxybenzaldehyde | 13.8 mMol, 2.1 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | 3-phenoxypropane-2-one triphenylphosphorane | 6.9 mMol, 2.8 g | C1(=CC=CC=C1)[PH2](C1=CC=CC=C1)C1=CC=CC=C1.O(C1=CC=CC=C1)CC(C)=O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4'-hydroxy,3'-methoxyphenyl)-4-phenyl-1-butene-3-one | 1.5 g, 65% | OC1=C(C=C(C=C1)C=CC(CC1=CC=CC=C1)=O)OC | C17H16O3
